US06087380
1-Methyl-2-[2-(4-amidinophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-methoxycarbonylpropyl)-amide-dihydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[2-(4-cyanophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-tert.butyloxycarbonylpropyl)-amide and methanolic hydrochloric acid, methanol and ammonium carbonate. Yield: 83.5% of theory, Rf value: 0.17 (silica gel; dichloromethane/ethanol=4:1) C29H31N5O3 (497.6) ##EQU15##

reactant | 1-methyl-2-[2-(4-cyanophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-tert.butyloxycarbonylpropyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1)CCCC(=O)OC(C)(C)C | C32H34N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | methanol | CO | CH4O
product | 1-Methyl-2-[2-(4-amidinophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(3-methoxycarbonylpropyl)-amide-dihydrochloride | Yield: 83.5% | Cl.Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)C=C1)CCCC(=O)OC | InChI=1S/C29H31N5O3.2ClH/c1-33-25-16-15-22(29(36)34(18-6-9-27(35)37-2)23-7-4-3-5-8-23)19-24(25)32-26(33)17-12-20-10-13-21(14-11-20)28(30)31;;/h3-5,7-8,10-11,13-16,19H,6,9,12,17-18H2,1-2H3,(H3,30,31);2*1H
